US06172085B2
In an autoclave, a mixture of 2-bromomethyl-2,3-dihydro-2,4,6,7-tetramethyl-5-benzofuranamine (1.5 g), 4-[(diphenylmethoxy)methyl]piperidine (3.0 g), and triethylamine (7.4 mL) was stirred under argon gas at 180° C. for 15 hours. This reaction mixture was diluted with water and extracted with ethyl acetate. The extract was washed with saturated aqueous NaCl, dried over MgSO4, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=1:1) to provide 2.4 g of 2-[[4-[(diphenylmethoxy)methyl]-1-piperidinyl]methyl]-2,3-dihydro-2,4,6,7-tetramethyl-5-benzofuranamine. Yield 95%. This product was treated with 0.45 g of oxalic acid and, then, recrystallized from ethanol to provide 1.8 g of the title compound. Yield 58%.

reactant | 2-bromomethyl-2,3-dihydro-2,4,6,7-tetramethyl-5-benzofuranamine | 1.5 g | BrCC1(OC2=C(C1)C(=C(C(=C2C)C)N)C)C | C13H18BrNO
reactant | 4-[(diphenylmethoxy)methyl]piperidine | 3.0 g | C1(=CC=CC=C1)C(OCC1CCNCC1)C1=CC=CC=C1 | C19H23NO
reactant | triethylamine | 7.4 mL | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 2-[[4-[(diphenylmethoxy)methyl]-1-piperidinyl]methyl]-2,3-dihydro-2,4,6,7-tetramethyl-5-benzofuranamine | 2.4 g, Yield 95% | C1(=CC=CC=C1)C(OCC1CCN(CC1)CC1(OC2=C(C1)C(=C(C(=C2C)C)N)C)C)C2=CC=CC=C2 | C32H40N2O2
